US05214204
t-Butyl (3-phenoxy)phenoxyacetate was prepared following the alkylation procedure as described in example 66 using 3-phenoxyphenol and acetone in lieu of ethyl 4-hydroxybenzoate and methylethylketone.

reactant | 3-phenoxyphenol | O(C1=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O2
reactant | acetone | CC(=O)C | C3H6O
reactant | ethyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | methylethylketone | CC(=O)CC | C4H8O
product | t-Butyl (3-phenoxy)phenoxyacetate | O(C1=CC=CC=C1)C=1C=C(OCC(=O)OC(C)(C)C)C=CC1 | C18H20O4
